US03975524
1-Thiomorpholino-3-piperazino-5-chloro-isoquinoline was prepared analogous to Example 3 from 1-thiomorpholino-3,5-dichloro-isoquinoline and piperazine by heating in diphenyl ether at 200°C. M.p. of its hydrochloride: 273°-275°C (from water); yield: 97% of theory.

reactant | 1-thiomorpholino-3,5-dichloro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)Cl)Cl | C13H12Cl2N2S
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloride | Cl | ClH
reactant | water | O | H2O
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1-Thiomorpholino-3-piperazino-5-chloro-isoquinoline | yield: 97% | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)Cl)N1CCNCC1 | C17H21ClN4S
